US06297239B1
Step E: Preparation of 2-Fluoro-4-[hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-benzonitrile
Acetic acid (4-cyano-3-fluoro-phenyl)-(3-methyl-3H-imidazol-4-yl)-methyl ester (1.26 g, 4.59 mmol) and NaOH (5.5 mL, 5.5 mmol) were dissolved in THF (15 mL) and H2O (25 mL). After 1 h, the reaction was diluted with satd. NaHCO3 solution, extracted with CH2Cl2 (3×), dried (MgSO4) and concentrated to give the title compound.

reactant | Acetic acid (4-cyano-3-fluoro-phenyl)-(3-methyl-3H-imidazol-4-yl)-methyl ester | 4.59 mmol, 1.26 g | C(#N)C1=C(C=C(C=C1)C(C=1N(C=NC1)C)OC(C)=O)F | C14H12FN3O2
reactant | NaOH | 5.5 mmol, 5.5 mL | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | H2O | 25 mL | O | H2O
product | 2-Fluoro-4-[hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-benzonitrile | FC1=C(C#N)C=CC(=C1)C(C=1N(C=NC1)C)O | C12H10FN3O
